US08455479B2
Sodium hydride (152.6 mg, 3.81 mmol, 60% suspension in mineral oil) was washed with hexane (2×2 mL) in a flame dried round bottomed flask under nitrogen atmosphere. To the resulting free floating powder, was added a solution of 2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester (500 mg, 1.90 mmol) in dry DMF (10 mL) at 0° C. The reaction mixture was stirred at this temperature for 1 h. Ethyl bromoacetate (0.21 mL, 1.9 mmol) was added at 0° C. and the reaction mixture was allowed to come to r.t. and stirred overnight. After the completion of the reaction as confirmed by TLC, reaction mixture was cooled to 0° C. and saturated solution of ammonium chloride (3 mL) was added dropwise to the reaction mixture. The crude product was extracted with ethylacetate (3×10 mL). The combined organic layers were dried over Na2SO4 and solvents were removed in vacuo to afford 1-ethoxycarbonylmethyl-2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester (480 mg, 72%) as a viscous oil which was used as such without any further purification for the next step.

reactant | Sodium hydride | 3.81 mmol, 152.6 mg | [H-].[Na+]
reactant | 2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester | 1.90 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CC(NC2=C(C1)C=CC=C2)=O | C14H18N2O3
reactant | Ethyl bromoacetate | 1.9 mmol, 0.21 mL | BrCC(=O)OCC | C4H7BrO2
reactant | ammonium chloride | 3 mL | [Cl-].[NH4+]
solvent | hexane | 2 mL | CCCCCC | C6H14
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-ethoxycarbonylmethyl-2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester | 480 mg, 72% | C(C)(C)(C)OC(=O)N1CC(N(C2=C(C1)C=CC=C2)CC(=O)OCC)=O | C18H24N2O5
